US06552068B1
Trietylamine (46 ml, 0.330 mol) was added to a solution of 4,4,5,5,5-pentafluoropentan-1-ol (25 g, 0.132 mol) in dichloromethane (50 ml). To this solution, methanesulfonyl chloride (20.4 ml, 0.264 mol) was added at 0° C., followed by stirring for 3 hours at room temperature under argon atmosphere. After the reaction was completed, water was added to the reaction mixture, which was then extracted with dichloromethane. The organic layer was washed with 1N aqueous hydrochloric acid, water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel flash column chromatography (eluent: hexane/ethyl acetate=1/1) to give 1-methanesulfonyloxy-4,4,5,5,5-pentafluoropentane (34 g, quantitative).

reactant | Trietylamine | 0.330 mol, 46 ml | C(C)N(CC)CC | C6H15N
reactant | 4,4,5,5,5-pentafluoropentan-1-ol | 0.132 mol, 25 g | FC(CCCO)(C(F)(F)F)F | C5H7F5O
reactant | methanesulfonyl chloride | 0.264 mol, 20.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-methanesulfonyloxy-4,4,5,5,5-pentafluoropentane | 34 g | CS(=O)(=O)OCCCC(C(F)(F)F)(F)F | C6H9F5O3S
